* Subcircuit MC7800
.subckt MC7800 vin vout net-_d1-pad1_ 
.title kicad schematic
.include ZenerD1N750.lib
.include NPN.lib
.include PNP.lib
.include D.lib
r5 net-_d1-pad1_ net-_c1-pad1_ 1k
q2 net-_q10-pad1_ net-_q2-pad2_ net-_d1-pad1_ Q2N2222
q6 net-_q5-pad3_ net-_q18-pad3_ net-_q10-pad1_ Q2N2222
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q10-pad1_ Q2N2222
q5 net-_q3-pad1_ net-_q1-pad3_ net-_q5-pad3_ Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 3p
q7 net-_q10-pad1_ net-_c1-pad2_ net-_c1-pad1_ Q2N2222
r3 net-_q2-pad2_ net-_q3-pad2_ 10.66k
r4 net-_d1-pad1_ net-_q2-pad2_ 1.56k
d1 net-_d1-pad1_ net-_d1-pad2_ D1N750
r1 net-_d1-pad2_ vin 100k
q1 vin net-_d1-pad2_ net-_q1-pad3_ Q2N2222
r2 net-_q3-pad2_ net-_q1-pad3_ 9k
r6 net-_q10-pad1_ net-_q18-pad3_ 15k
r7 net-_c1-pad2_ net-_q10-pad1_ 4.5k
q8 net-_c2-pad1_ net-_q3-pad1_ net-_q8-pad3_ Q2N2907A
q4 net-_q3-pad1_ net-_q3-pad1_ unconnected-_q4-pad3_ Q2N2907A
r8 net-_q8-pad3_ vin 50
q14 net-_c2-pad1_ net-_c2-pad2_ net-_q14-pad3_ Q2N2222
r12 vout net-_q14-pad3_ 100
q10 net-_q10-pad1_ net-_c1-pad2_ net-_q10-pad3_ Q2N2222
q11 net-_q10-pad1_ net-_c1-pad2_ net-_c3-pad1_ Q2N2222
q9 net-_c1-pad2_ net-_c1-pad1_ net-_d1-pad1_ Q2N2222
q13 net-_q13-pad1_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
r11 net-_c3-pad1_ net-_q13-pad3_ 17.5k
q12 net-_c3-pad1_ net-_q10-pad3_ net-_q12-pad3_ Q2N2222
r9 net-_d1-pad1_ net-_q10-pad3_ 14k
r19 vout net-_q13-pad1_ 600
r25 vout net-_q20-pad3_ 0.2
r29 net-_q18-pad2_ sense 18k
q20 vin net-_q13-pad1_ net-_q20-pad3_ Q2N2222
r10 net-_d1-pad1_ net-_q12-pad3_ 1.8k
r13 net-_d1-pad1_ net-_d2-pad2_ 5k
q15 net-_c3-pad2_ net-_c3-pad1_ net-_d2-pad1_ Q2N2222
r28 net-_q18-pad2_ net-_q18-pad2_ 9k
r27 net-_q18-pad2_ net-_q18-pad2_ 9k
r26 net-_q18-pad2_ net-_q18-pad2_ 9k
c2 net-_c2-pad1_ net-_c2-pad2_ 1p
q17 vin net-_c2-pad1_ net-_q13-pad1_ Q2N2222
q18 net-_q13-pad1_ net-_q18-pad2_ net-_q18-pad3_ Q2N2222
r23 net-_q13-pad1_ net-_c2-pad2_ 1k
r24 net-_c2-pad2_ net-_q20-pad3_ 680
r16 net-_c2-pad2_ net-_d3-pad1_ 27.5k
d3 net-_d3-pad1_ vin D1N750
c3 net-_c3-pad1_ net-_c3-pad2_ 30p
r21 net-_q18-pad2_ net-_q18-pad2_ 6k
r20 net-_q18-pad2_ net-_q18-pad2_ 3k
r18 net-_d1-pad1_ net-_q13-pad2_ 11.66k
r22 net-_q18-pad2_ net-_q18-pad2_ 3k
r14 net-_q19-pad3_ net-_c2-pad1_ 600
r17 net-_q13-pad2_ net-_q18-pad2_ 3.34k
r15 net-_c3-pad2_ net-_q19-pad3_ 3k
q16 net-_c3-pad2_ net-_d2-pad1_ net-_d1-pad1_ Q2N2222
q19 net-_d1-pad1_ net-_c3-pad2_ net-_q19-pad3_ Q2N2907A
d2 net-_d2-pad1_ net-_d2-pad2_ 1N4148
* Control Statements

.ends MC7800