.title KiCad schematic
M3 Net-_M1-Pad3_ Net-_M14-Pad1_ VDD VDD mosfet_p
U1 in1 in2 out VDD GND PORT
M6 Net-_M11-Pad1_ in1 Net-_M1-Pad3_ VDD mosfet_p
M1 Net-_M1-Pad1_ in2 Net-_M1-Pad3_ VDD mosfet_p
R3 Net-_M12-Pad2_ Net-_M10-Pad1_ 84
M8 Net-_M5-Pad1_ Net-_M5-Pad1_ GND GND mosfet_n
M7 Net-_M5-Pad1_ Net-_M11-Pad1_ GND GND mosfet_n
M9 Net-_M12-Pad2_ Net-_M5-Pad1_ GND GND mosfet_n
R4 Net-_M11-Pad1_ Net-_C1-Pad1_ 84
M11 Net-_M11-Pad1_ Net-_M11-Pad2_ GND GND mosfet_n
M4 Net-_M11-Pad1_ Net-_M1-Pad1_ Net-_M4-Pad3_ GND mosfet_n
R2 GND Net-_M4-Pad3_ 37.23
M2 Net-_M1-Pad1_ Net-_M1-Pad1_ Net-_M2-Pad3_ GND mosfet_n
R1 GND Net-_M2-Pad3_ 37.23
C1 Net-_C1-Pad1_ out 100p
M12 out Net-_M12-Pad2_ VDD VDD mosfet_p
M14 Net-_M14-Pad1_ Net-_M14-Pad1_ VDD VDD mosfet_p
M16 Net-_M15-Pad2_ Net-_M15-Pad2_ Net-_D1-Pad1_ GND mosfet_n
D1 Net-_D1-Pad1_ GND eSim_Diode
M17 Net-_M15-Pad2_ Net-_M14-Pad1_ VDD VDD mosfet_p
M5 Net-_M5-Pad1_ Net-_M14-Pad1_ VDD VDD mosfet_p
M10 Net-_M10-Pad1_ Net-_M10-Pad1_ VDD VDD mosfet_p
R6 GND Net-_M15-Pad3_ 100k
R5 GND Net-_M11-Pad2_ 64.52
M15 Net-_M14-Pad1_ Net-_M15-Pad2_ Net-_M15-Pad3_ GND mosfet_n
M13 out Net-_M11-Pad1_ Net-_M11-Pad2_ GND mosfet_n
.end
