* Subcircuit TLC2252
.subckt TLC2252 in1 in2 out vdd gnd 
.title kicad schematic
.include D.lib
.include NMOS-0.5um.lib
.include PMOS-0.5um.lib
m3 net-_m1-pad3_ net-_m14-pad1_ vdd vdd mos_p W=100u L=100u M=1
m6 net-_m11-pad1_ in1 net-_m1-pad3_ vdd mos_p W=100u L=100u M=1
m1 net-_m1-pad1_ in2 net-_m1-pad3_ vdd mos_p W=100u L=100u M=1
r3 net-_m12-pad2_ net-_m10-pad1_ 84
m8 net-_m5-pad1_ net-_m5-pad1_ gnd gnd mos_n W=100u L=100u M=1
m7 net-_m5-pad1_ net-_m11-pad1_ gnd gnd mos_n W=100u L=100u M=1
m9 net-_m12-pad2_ net-_m5-pad1_ gnd gnd mos_n W=100u L=100u M=1
r4 net-_m11-pad1_ net-_c1-pad1_ 84
m11 net-_m11-pad1_ net-_m11-pad2_ gnd gnd mos_n W=100u L=100u M=1
m4 net-_m11-pad1_ net-_m1-pad1_ net-_m4-pad3_ gnd mos_n W=100u L=100u M=1
r2 gnd net-_m4-pad3_ 37.23
m2 net-_m1-pad1_ net-_m1-pad1_ net-_m2-pad3_ gnd mos_n W=100u L=100u M=1
r1 gnd net-_m2-pad3_ 37.23
c1 net-_c1-pad1_ out 100p
m12 out net-_m12-pad2_ vdd vdd mos_p W=100u L=100u M=1
m14 net-_m14-pad1_ net-_m14-pad1_ vdd vdd mos_p W=100u L=100u M=1
m16 net-_m15-pad2_ net-_m15-pad2_ net-_d1-pad1_ gnd mos_n W=100u L=100u M=1
d1 net-_d1-pad1_ gnd 1N4148
m17 net-_m15-pad2_ net-_m14-pad1_ vdd vdd mos_p W=100u L=100u M=1
m5 net-_m5-pad1_ net-_m14-pad1_ vdd vdd mos_p W=100u L=100u M=1
m10 net-_m10-pad1_ net-_m10-pad1_ vdd vdd mos_p W=100u L=100u M=1
r6 gnd net-_m15-pad3_ 100k
r5 gnd net-_m11-pad2_ 64.52
m15 net-_m14-pad1_ net-_m15-pad2_ net-_m15-pad3_ gnd mos_n W=100u L=100u M=1
m13 out net-_m11-pad1_ net-_m11-pad2_ gnd mos_n W=100u L=100u M=1
* Control Statements

.ends TLC2252